* E:\Universiteit\Master\7 Q2 - 2021\EE4109-Structured-Electronic-Design\cir\Assigment5_dual_stage_frequency.asc
XU1 0 N003 N001 0 CMOS18ND W={W_DP} L={L_DP} ID={ID_DP}
XU2 N002 N003 0 0 CMOS18PN W_N={W_N} L_N={L_N} ID_N={ID_N} W_P={W_P} L_P={L_P} ID_P={ID_P}
E1 N005 0 N004 0 {L_A}
V2 N004 0 V value={Vin} dc=0 dcvar=0 noise=0
R1 out N002 {R_C}
R2 0 out {R_C}
C1 N001 N002 {C_F}
C2 N006 N005 {C_A}
Rphz N001 N006 r value={R_phz} dcvar=0
.backanno
.end
